US06956053B2
Step a. 2-[2-(Adamantan-1-yloxy)-acetyl]-3-dimethylamino-acrylic acid benzyl ester.
A solution of 4-(adamantan-1-yloxy)-3-oxo-butyric acid benzyl ester (1.133 g, 3.3 mmol) and DMF dimethylacetal (0.56 mL, 3.96 mmol) in DMF (20 mL) was heated at 100° C. for 3 h. The mixture was diluted with H2O (80 mL) and extracted with EtOAc (2×30 mL). The combined extracts were washed with brine (2×30 mL), and dried (MgSO4). Filtration and evaporation of the solvent afforded the product, (0.647 g, 49%).

reactant | 4-(adamantan-1-yloxy)-3-oxo-butyric acid benzyl ester | 3.3 mmol, 1.133 g | C(C1=CC=CC=C1)OC(CC(COC12CC3CC(CC(C1)C3)C2)=O)=O | C21H26O4
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | 80 mL | O | H2O
product | 2-[2-(Adamantan-1-yloxy)-acetyl]-3-dimethylamino-acrylic acid benzyl ester | C(C1=CC=CC=C1)OC(C(=CN(C)C)C(COC12CC3CC(CC(C1)C3)C2)=O)=O | C24H31NO4
